US07417040B2
To a stirred mixture of 2-bromo-4-chloroaniline (5 g, 24 mmol) and catalytic DMAP in CH2Cl2 (15 mL) was add acetic anhydride (2.3 mL, 24 mmol) at room temperature. The reaction mixture was stirred overnight then washed with saturated aqueous NaHCO3 solution. The CH2Cl2 layer was dried (MgSO4), filtered, concentrated in vacuo. The crude material was triturated with Hexane/Et2O and the solid filtered and dried in vacuo to give N-(2-bromo-4-chloro-phenyl)-acetamide (5.2 g, 86%). HPLC: Rt=2.26 min. m/z=248 (M+H+).

reactant | 2-bromo-4-chloroaniline | 24 mmol, 5 g | BrC1=C(N)C=CC(=C1)Cl | C6H5BrClN
reactant | acetic anhydride | 24 mmol, 2.3 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(2-bromo-4-chloro-phenyl)-acetamide | 5.2 g, 86% | BrC1=C(C=CC(=C1)Cl)NC(C)=O | C8H7BrClNO
